US06110962
[2,6-Dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxy]-acetic acid, methyl ester
2,6-Dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen- 11 -yl)-phenol (1.0 g, 1.78 mmol), methyl bromoacetate (0.35 mL, 3.70 mmol), potassium carbonate (0.50 g, 3.62 mmol) and N,N-dimethylformamide (5 mL) were combined and stirred at ambient temperatures overnight. The reaction mixture was added to water and filtered. The solid was washed with water and dried in vacuo to provide the title compound as a white solid (1.11 g, 98%): mp 183-184° C.: NMR (CDCl3); δ8.36 (ddd, J=8, 1, 1 Hz, 1 H), 7.84 (ddd, J=8, 1, 1 Hz, 1 H), 7.68 (ddd, J=8, 7, 1 Hz, 1 H), 7.62 (s, 2 H), 7.57 (ddd, J=8, 1, 1 Hz, 1 H), 7.51 (ddd, J=8, 7, 1 Hz, 1 H), 7.42 (ddd, J=8, 7, 1 Hz, 1 H), 7.18 (ddd, J=8, 7, 1 Hz, 1 H), 6.72 (ddd, J=8, 1, 1 Hz, 1 H), 4.88 (s, 2 H), 3.94 (s, 3 H); MS (EI): [M+], 3 bromine isotope pattern, 632 (30%), 634 (90%) 636 (100%) 638 (35%); Anal. Calc. for C25H15Br3O3S: C, 47.27, H, 2.38, N, 0.00. Found: C, 47.17, H, 2.19, N, 0.09.

reactant | 2,6-Dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen- 11 -yl)-phenol | 1.78 mmol, 1.0 g | BrC1=C(C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br)O | C22H11Br3OS
reactant | methyl bromoacetate | 3.70 mmol, 0.35 mL | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 3.62 mmol, 0.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | [2,6-Dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxy]-acetic acid, methyl ester | 1.11 g, 98% | BrC1=C(OCC(=O)OC)C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br | C25H15Br3O3S
